** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/osc_tb_tran.sch
**.subckt osc_tb_tran
VDD VDD VSS 3.3
x1 net2 net1 VSS VDD nmos_current_mirror2
Vi1 net4 net2 0
.save i(vi1)
Vi2 net3 net1 0
.save i(vi2)
I1 VSS net3 20u
VDD1 VDD net4 PULSE(0 2 0 10n 10n 500n 1000n)
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt

.include /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/IHP-Open-PDK/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice



* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param period=60n
.csparam period=period
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control

save all
set appendwrite

tran 10n 3000n
remzerovec

save all
set appendwrite

write osc_tb_tran.raw
set appendwrite

* Plotting
*plot v(vsweep)
*plot i(Vmeas)
*plot v(sw1)-4 v(sw2)-8
*print mean(v(vd) - v(vb))/mean(i(Vmeas))
plot i(Vi1) i(Vi2)

*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  nmos_current_mirror2.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/nmos_current_mirror2.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/nmos_current_mirror2.sch
.subckt nmos_current_mirror2 i_out1 i_in VSS i_out2
*.ipin i_in
*.opin i_out1
*.iopin VSS
*.opin i_out2
XM1 i_out1 i_in VSS VSS sg13_hv_nmos w=5.0u l=5.0u ng=1 m=1 mm_ok=1
XM2 i_in i_in VSS VSS sg13_hv_nmos w=5.0u l=5.0u ng=1 m=1 mm_ok=1
XM3 i_out2 i_in VSS VSS sg13_hv_nmos w=20.0u l=5.0u ng=5 m=1 mm_ok=1
.ends

.end
